US07312330B2
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-(3-(methylsulfonyl)pyridin-2-yl)-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine (320 mg, 0.00089 mol) and 2-chloro-3-(methylsulfonyl)pyridine (200.0 mg, 0.0009915 mol) were dissolved in dioxane (5 mL) and DMA (0.5 mL), N,N-diisopropylethylamine (0.17 g, 0.0013 mol) was added and the mixture was heated in a sealed tube via microwave at 150° C. for 30 min. Solvent was removed and the residue was purified by flash chromatography over silica gel to obtain the product as a white solid (230 mg).

reactant | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine | 0.00089 mol, 320 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=C(N1)SC)CNCC2)(F)F | C15H15F3N4S
reactant | 2-chloro-3-(methylsulfonyl)pyridine | 0.0009915 mol, 200.0 mg | ClC1=NC=CC=C1S(=O)(=O)C | C6H6ClNO2S
reactant | N,N-diisopropylethylamine | 0.0013 mol, 0.17 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-(3-(methylsulfonyl)pyridin-2-yl)-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine | 230 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=C(N1)SC)CN(CC2)C2=NC=CC=C2S(=O)(=O)C)(F)F | C21H20F3N5O2S2
